US04036872
A mixture of 2-(7-hydroxyheptyl)-3-oxocyclopentanecarbonitrile (20 g.), ethylene glycol (5.6 g.), p-toluenesulphonic acid (1 g.) and benzene 160 ml.) was heated to reflux for 210 minutes with continuous removal of water. The mixture was cooled to ambient temperature, anhydrous sodium carbonate was added and, after filtration through a bed of sodium carbonate, the solvent was removed under reduced pressure. The residue was distilled under reduced pressure to give 7-cyano-6-(7-hydroxyheptyl)-1,4-dioxaspiro[4,4]nonane (19.3 g.), b.p. 166° C-182° C./0.1 mm.Hg. This material was used as a starting material in the next stage, as aliquot being redistilled to b.p. 177°-179° C./0.1 mm.Hg for elemental analysis:

reactant | 2-(7-hydroxyheptyl)-3-oxocyclopentanecarbonitrile | 20 g | OCCCCCCCC1C(CCC1=O)C#N | C13H21NO2
reactant | ethylene glycol | 5.6 g | C(CO)O | C2H6O2
reactant | benzene | 160 ml | C1=CC=CC=C1 | C6H6
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 7-cyano-6-(7-hydroxyheptyl)-1,4-dioxaspiro[4,4]nonane | 19.3 g | C(#N)C1C(C2(OCCO2)CC1)CCCCCCCO | C15H25NO3
